US04816487
5-methyl-2-hyroxy-caprophenone-oxime:
p-cresol and caproylchloride are converted in a well-known mode to ester which, according to Fries, is rearranged to 5-methyl-2-hydroxy-caprophenone, 155° in b.p.65 (cf. P.P.T. Sah and H. H. Anderson, J. Am. Chem. Soc. 63, 3164 (1941). 20 g (0.1 Mol) of ketone are solved in 45 ml ethanol and heated 30 minutes to boiling level under reflux cooling together with a concentrated aqueous solution of 7.5 g of hydroxylamine hydrochloride and 15 g of crystalline sodium acetate. Water is then added to the mixture, and the separated oxime recrystallised from ethanol/water, the flash point being between 83° C. and 85° C.

reactant | p-cresol | C1=CC(=CC=C1O)C | C7H8O
reactant | caproylchloride | C(CCCCC)(=O)Cl | C6H11ClO
reactant | 5-methyl-2-hydroxy-caprophenone | CC(CCC(C(=O)C1=CC=CC=C1)O)C | C13H18O2
reactant | hydroxylamine hydrochloride | 7.5 g | Cl.NO
reactant | sodium acetate | 15 g | C(C)(=O)[O-].[Na+]
solvent | ethanol | 45 ml | C(C)O | C2H6O
solvent | Water | O | H2O
product | 5-methyl-2-hyroxy-caprophenone-oxime | CC(CCC(C(C1=CC=CC=C1)=NO)O)C | C13H19NO2
